US04066692
Step D(3): Preparation of 3-Benzyloxypropyltriphenylphosphonium Bromide
A solution of 3-benzyloxy-1-bromopropane (41.0 g., 0.18 mole) and triphenylphosphine (52.4 g., 0.2 mole) in benzene (500 ml.) is stirred and heated at reflux for 92 hours. After removing the solvent in vacuo, the residual gum is dissolved in acetonitrile (50 ml.) providing a pale yellow solution which is diluted with ethyl acetate (400 ml.) to incipient cloudiness and stirred at 25° for 48 hours. Deposited crystals are collected; the yield is 48 g. (53%). Recrystallization from ethyl acetate-acetonitrile (4:1) provides colorless needles, m.p. 151°-152°; pmr (CDCl3)δ2.0 (2H,m), 3.78 (4H,m), 4.49 (2H,s), 7.29 (5H,s) and 7.70 (15H,m).

reactant | 3-benzyloxy-1-bromopropane | 0.18 mole, 41.0 g | C(C1=CC=CC=C1)OCCCBr | C10H13BrO
reactant | triphenylphosphine | 0.2 mole, 52.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzyloxypropyltriphenylphosphonium Bromide | [Br-].C(C1=CC=CC=C1)OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H28OP.BrH/c1-5-14-25(15-6-1)24-29-22-13-23-30(26-16-7-2-8-17-26,27-18-9-3-10-19-27)28-20-11-4-12-21-28;/h1-12,14-21H,13,22-24H2;1H/q+1;/p-1
